US04937268
4-Amino-3,5-dichloro-α-[[[6-[2-[2-(2-pyridinyl)ethoxy]ethoxy]hexyl]amino]methyl]benzenemethanol
A solution of 4-amino-3,5-dichloro-α-[[(phenylmethyl)[6-[2-[2(2-pyridinyl)ethoxy]ethoxy]hexyl]amino]methyl]benzenemethanol (1.1 g,) in ethanol (25 ml) was hydrogenated over pre-reduced 10% palladium oxide on charcoal catalyst (50% aqueous paste, 600 mg) in ethanol (10 ml) containing 1:9 conc. hydrochloric acid/ethanol, (1.78 ml,) until the uptake of hydrogen ceased (1 h). The mixture was filtered and evaporated in vacuo to give an oil which was dissolved in dichloromethane (100 ml) and washed with 8% sodium bicarbonate (50 ml). The aqueous phase was re-extracted with dichloromethane (50 ml) and the combined organic phases dried and evaporated in vacuo to give an oil. Purification by FCC eluting with System G (95:5:1) gave a colourless oil, which was dissolved in methanol (10 ml) and treated with fumaric acid (0.09 g), evaporated in vacuo and triturated with diethyl ether to give a white solid (0.75 g,). The solid was dissolved in dichloromethane (150 ml) and washed with 8% sodium bicarbonate (100 ml). The aqueous layer was re-extracted with dichloromethane (100 ml) and the combined organic fractions dried and evaporated in vacuo to give an oil. Trituration with System F (ca. 10:1) gave the title compound (0.60 g,) as a white solid m.p. 45.5°-46.5°. T.l.c. (System E 40:10:1) Rf 0.49.

reactant | 4-amino-3,5-dichloro-α-[[(phenylmethyl)[6-[2-[2(2-pyridinyl)ethoxy]ethoxy]hexyl]amino]methyl]benzenemethanol | 1.1 g | NC1=C(C=C(C=C1Cl)C(O)CN(CCCCCCOCCOCCC1=NC=CC=C1)CC1=CC=CC=C1)Cl | C30H39Cl2N3O3
reactant | hydrochloric acid ethanol | Cl.C(C)O
reactant | hydrogen | [H][H] | H2
reactant | fumaric acid | 0.09 g | C(\C=C\C(=O)O)(=O)O | C4H4O4
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | methanol | 10 ml | CO | CH4O
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
catalyst | palladium oxide | [Pd]=O
product | 4-Amino-3,5-dichloro-α-[[[6-[2-[2-(2-pyridinyl)ethoxy]ethoxy]hexyl]amino]methyl]benzenemethanol | 0.60 g | NC1=C(C=C(C=C1Cl)C(O)CNCCCCCCOCCOCCC1=NC=CC=C1)Cl | C23H33Cl2N3O3
